US04200748
(+)-2,3,3a,4-Tetrahydro-1H-pyrrolo[1',2':4,5][1,4]oxazino[2,3-b]quinoxaline
A mixture of 4.93 ml. of L-2-pyrrolidinomethanol, 20 ml. of triethylamine, 10.0 g. of 2,3-dichloroquinoxaline and 100 ml. of dimethylformamide is heated on a steam bath for 48 hours. A 200 ml. portion of water is added and the mixture is stored in a freezer for 48 hours. The solid is recovered by filtration, dissolved in dichloromethane, passed through Magnesol® and concentrated. The residue is dissolved in 15 ml. of ethyl acetate, stored in a freezer for several days, concentrated to a crystalline residue and washed with ether. These crystals are recrystallized from 5 ml. of ethanol, giving the desired product as yellow crystals, m.p. 121°-123° C., [α]D25 +114° (methanol).

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 2,3-dichloroquinoxaline | ClC1=NC2=CC=CC=C2N=C1Cl | C8H4Cl2N2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (+)-2,3,3a,4-Tetrahydro-1H-pyrrolo[1',2':4,5][1,4]oxazino[2,3-b]quinoxaline | C1CCC2N1C=1C(=NC=3C=CC=CC3N1)OC2 | C13H13N3O
